US04582837
2-(2'-Methoxy-4'-chlorosulfonyl-phenyl)-purine hydrochloride
Prepared analogously to Example C from 2.5 gm of 2-methoxy-4-chlorosulfonyl benzoic acid and 2.4 gm of 4,5-diamino-pyrimidine (crystalline product obtained from dihydorchloride and 1 mol of common salt) by refluxing for eight hours. The solid crude product was processed further without any purification.

reactant | 2-methoxy-4-chlorosulfonyl benzoic acid | 2.5 gm | COC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)Cl | C8H7ClO5S
reactant | 4,5-diamino-pyrimidine | 1 mol, 2.4 gm | NC1=NC=NC=C1N | C4H6N4
product | 2-(2'-Methoxy-4'-chlorosulfonyl-phenyl)-purine hydrochloride | Cl.COC1=C(C=CC(=C1)S(=O)(=O)Cl)C1=NC=C2NC=NC2=N1 | InChI=1S/C12H9ClN4O3S.ClH/c1-20-10-4-7(21(13,18)19)2-3-8(10)11-14-5-9-12(17-11)16-6-15-9;/h2-6H,1H3,(H,14,15,16,17);1H
